2108-02-22 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 62 year old woman with pmh significant for right sided
   systolic heart failure secondary to left sided diastolic heart failure,
   presenting with hypoxia in the setting of cough and diarrhea.
   24 Hour Events:
 EKG - At [**2108-2-22**] 03:20 AM
 BLOOD CULTURED - At [**2108-2-22**] 06:24 AM
 ARTERIAL LINE - START [**2108-2-22**] 06:27 AM
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2108-2-22**] 02:00 AM
   Dextrose 50% - [**2108-2-22**] 03:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-2-22**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 34.6
C (94.2
   Tcurrent: 34.4
C (94
   HR: 64 (59 - 68) bpm
   BP: 92/36(29) {84/27(29) - 103/73(78)} mmHg
   RR: 14 (8 - 17) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
             2,199 mL
   PO:
             TF:
   IVF:
   2,174 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     42 mL
   Urine:
   42 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,157 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 620 (465 - 620) mL
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 80%
   SpO2: 96%
   ABG: 7.26/44/102/20/-6
   Ve: 5.1 L/min
   PaO2 / FiO2: 128
   Physical Examination
   GENERAL: face mask on. breathing comfortably.
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.
   CARDIAC: Irregularly irregular, no m/g/r. Distended external jugulars.
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, RLQ tenderness, no rebound. ND.
   EXTREMITIES: 1+ lower extremity peripheral edema.  hands cyanotic. poor
   capillary refill.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. Preserved sensation throughout. 5/5 strength
   throughout.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   189 K/uL
   10.5 g/dL
   69 mg/dL
   2.9 mg/dL
   20 mEq/L
   4.3 mEq/L
   53 mg/dL
   98 mEq/L
   133 mEq/L
   33.4 %
   4.2 K/uL
        [image002.jpg]
                             [**2108-2-22**]  12:33 AM
                             [**2108-2-22**]  04:01 AM
                             [**2108-2-22**]  06:14 AM
   WBC
   4.2
   4.2
   Hct
   37.1
   33.4
   Plt
   237
   189
   Cr
   2.9
   2.9
   TropT
   0.40
   TCO2
   21
   Glucose
   60
   69
   Other labs: PT / PTT / INR:14.8/28.9/1.3, CK / CKMB /
   Troponin-T:141/37/0.40, Differential-Neuts:80.8 %, Lymph:8.5 %,
   Mono:9.0 %, Eos:1.6 %, Lactic Acid:1.1 mmol/L, Ca++:8.8 mg/dL, Mg++:1.7
   mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   62 year old woman with pmh significant for right sided systolic heart
   failure secondary to left sided diastolic heart failure, presenting
   with hypoxia, NSTEMI in the setting of cough and diarrhea.
   #.Hypoxia: Pt appears to have some evidence of shunting physiology on
   exam and by 02 requirement and in old cath pt known to have PFO.
   Possibly worsened shunting through PFO in the setting of hypovolemia.
   - TTE with bubble study to evaluate PFO
   - cycle cardiac enzymes
   - Rapid respiratory assay for influenza, viral cultures
   - Titrate to O2>94%
   - page Dr [**First Name (STitle) **]
   # Hypotension: On exam the pt appears to be in hypovolemic shock, as
   her hands are cool and cyanotic, her blood pressure is falling and she
   reports frequent diarrhea and vomiting for several days at home. Of
   concern is the report from the ED that pt had melena in ED. The pt has
   a history of a duodenal ulcer as well as [**Last Name (LF) **], [**First Name3 (LF) **] there are two reasons
   for the pt to be having GI bleeding currently. In [**Name (NI) 44**] pt had guaiac
   pos stool but not frank melena.  Pt have have resolving ischemic
   colitis secondary to hypotension.
   - T+S
   - PPI IV BID
   - Guaiac all stools
   - follow stool guiacs
   - Bolus with 500 cc NS prn hypotension
   - blood cx, urine cx, stool for c.diff to evaluate for septic causes of
   hypotension although WBC not elevated, no fever
   # NSTEMI: Troponin 0.4 today, which may be elevated in the setting of
   ARF and demand, but still constitutes NSTEMI. No ST changes on EKG, but
   overall decreased voltage.
   - Repeat EKG
   - Cycle CE
   #. ARF: BL Cr 1.1-1.5. Suspect prerenal azotemia secondary to
   dehydration versus ATN in the setting of hypotension.
   - Prerenal: check urine lytes and FEUrea (15%)
   - Gentle IVF
   - Hold torsemide, spironolactone as BP still low
   # Hypoglycemia: Check thyroid studies. No history of chronic steroids
   so unlikely adrenal insufficiency. ? Insulin resistance.
   - Check LFTs
   - q2h fingersticks with sliding scale insulin/ dextrose
   #.Diarrhea: Possibly from infection or flare of ulcerative colitis.
   - Stool Cx, fecal leuks
   - C.Diff Cx
   #.Hyponatremia: Hypervolemic, likely due to CHF exacerbation and
   diarrhea.
   #.Hypothyroid: [**Month (only) 60**] be contributing to hypotension.
   - TSH elevated, T4 normal, likely sick euthyroid or subclinical
   hypothyroid.
   FEN: NPO for now given question of GI bleed
   PPX:
   -DVT ppx with p-boots
   -Bowel regimen
   -Pain management with small doses percocet
   ACCESS: PIV's
   CODE STATUS: Full for now pending discussion with pt and son
   EMERGENCY CONTACT: [**Name (NI) **] is HCP: [**Name (NI) 831**] ([**0-0-**])
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2108-2-21**] 11:29 PM
   Arterial Line - [**2108-2-22**] 06:27 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status:
   Disposition:

2108-02-23 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 62 year old woman with pmh significant for right sided
   systolic heart failure secondary to left sided diastolic heart failure,
   presenting with hypoxia in the setting of cough and diarrhea.
   24 Hour Events:
   Echo with bubbles concerning for significant shunt (intra-atrial septum
   deviated to left), c/w ASD rather than PFO based on size. Also
   worsening right ventricular wall motion but PA pressure not significant
   enough to suspect PE. Concerning for worsening R CHF or R infarct in
   setting of bradycardia, hypotension, CE elevation.
   Plan for TEE tomorrow (NPO), then based on results, right heart cath
   for pressures. Afterwards, may be kept in CCU/[**Hospital1 2259**]. Dr [**First Name (STitle) **] following.
   Trop slightly highter, CK trending down, denies chest pain.
   LFTs checked, AST slightly high, alk phos super high. Checking GGT.
   UA positive, in setting of hypothermia, hypotension, bradycardia, WBC
   4, hypoxia, started on Cipro even before UCx final. BCx and C diff
   pending. Continues to be anuric, renal US neg.
   Central line with port for PA catheter placed to administer dopamine.
   A-line replaced.
   ABG:  7.35/36/62/20/-4
   Allergies:
   Lisinopri l- Rash; Abdominal
   Kefzol - Hives;
   Sulfa - Hives; Nausea/V
   Last dose of Antibiotics:
   Ciprofloxacin - [**2108-2-23**] 01:11 AM
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-2-22**] 08:39 AM
   Hydromorphone (Dilaudid) - [**2108-2-22**] 01:30 PM
   Other medications:
   1. Acetaminophen [**Telephone/Fax (1) 1335**] mg PO Q6H:PRN
   2. MetronidAZOLE 1 % Gel 1 Appl DAILY:PRN acne
   3. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob
   4. Miconazole 2% Cream 1 Appl TP [**Hospital1 **]:PRN
   5. Ciprofloxacin 400 mg IV Q24H
   6. Oxycodone-Acetaminophen 1 TAB PO Q6H:PRN pain
   7. Pantoprazole 40 mg IV Q12H
   8. DOPamine 2-10 mcg/kg/min IV DRIP
   9. Ferrous Sulfate 325 mg PO DAILY
   10. FoLIC Acid 1 mg PO DAILY
   11. Insulin sliding scale
   Flowsheet Data as of  [**2108-2-23**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 34.8
C (94.7
   Tcurrent: 34.8
C (94.7
   HR: 79 (56 - 91) bpm
   BP: 94/62(74) {79/53(63) - 149/145(147)} mmHg
   RR: 12 (8 - 20) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
    CVP: 30 (30 - 44)mmHg
   Total In:
                                                                  3,966 mL
                                                                    381 mL
   PO:
                                                                    500 mL
   TF:
   IVF:
                                                                  3,441 mL
                                                                    381 mL
   Blood products:
   Total out:
                                                                     84 mL
                                                                     31 mL
   Urine:
                                                                     84 mL
                                                                     31 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,882 mL
                                                                    350 mL
   Physical Examination
   GENERAL: Breathing comfortably on NC
   HEENT: MMM. Sclera anicteric
   CARDIAC: Irregularly irregular, no m/g/r. Distended external jugulars.
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT ND, no HSM, no rebound, or guarding.
   EXTREMITIES: 1+ lower extremity peripheral edema.  hands cyanotic. poor
   capillary refill. Legs warm and pale.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. Preserved sensation throughout. 5/5 strength
   throughout
   Labs / Radiology
   194 K/uL
   10.5 g/dL
   106 mg/dL
   3.3 mg/dL
   20 mEq/L
   4.2 mEq/L
   55 mg/dL
   99 mEq/L
   134 mEq/L
   33.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2108-2-22**]  12:33 AM
                             [**2108-2-22**]  04:01 AM
                             [**2108-2-22**]  06:14 AM
                             [**2108-2-22**]  10:25 AM
                             [**2108-2-22**]  10:33 AM
                             [**2108-2-22**]  04:55 PM
                             [**2108-2-22**]  05:22 PM
                             [**2108-2-23**]  04:00 AM
                             [**2108-2-23**]  05:07 AM
                             [**2108-2-23**]  06:07 AM
   WBC
   4.2
   4.2
   6.3
   Hct
   37.1
   33.4
   33.5
   Plt
   237
   189
   194
   Cr
   2.9
   2.9
   3.3
   TropT
   0.40
   0.47
   0.53
   TCO2
   21
   20
   19
   20
   21
   Glucose
   60
   69
   106
   Other labs: PT / PTT / INR:15.7/38.1/1.4, CK / CKMB /
   Troponin-T:89/23/0.53, ALT / AST:[**11/2077**], Alk Phos / T Bili:368/1.2,
   Differential-Neuts:80.8 %, Lymph:8.5 %, Mono:9.0 %, Eos:1.6 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.9 g/dL, LDH:231 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   62 year old woman with pmh significant for right sided systolic heart
   failure secondary to left sided diastolic heart failure, presenting
   with hypoxia, NSTEMI in the setting of cough and diarrhea.
   # Right heart failure: Pt with worsening right heart function,
   initially thought to be due to Left diastolic failure. Now with
   significant flow via ASD, TR and decreased flow via [**MD Number(3) 8317**] mod pulm
   HTN.
   - Difficult situation as ASD may be offloading some RV pressure and
   closing ASD may cause worsening function.
   - Also vasodilators risk systemic vasodilatation, and as pt obviously
   preload dependent may worsen situation.
   - Will tbw Dr [**First Name (STitle) **] re plan and prognosis and discuss situation with
   family.
   - continue dopamine to augment inotropy/chronotropy.
   - Cardiac enzymes: CK peaked trending down, Trop still elevated. Likely
   demand ischemia. Less likely myocarditis.
   #.Hypoxia:  Poorly responsive to O2, thus shunt physiology.  TTE with
   significant right to left shunt with intraatrial septal deviation
   plan for TEE today. Based on TEE findings may go on to right heart cath
   for pressure measurement and trial of vasodilators vs float swan in
   [**Hospital Unit Name 44**].
   - Influenza ruled out.
   - wean oxygen as tolerated while volume and perfusion repleted
   # Hypotension: On exam the pt appears to be in hypovolemic vs septic
   shock
   - Re: hypovolemia: frequent diarrhea and vomiting for several days, ?
   melena, h/o UC and PUD.
   - Re: ? sepsis: hypotensive, bradycardic, hypothermic, leukopenia and
   UA positive.
   - T+S, PPI IV BID, Guaiac all stools
   - small boluses prn
   - continue dopamine for increased CO.
   - blood cx  and urine cx pending but UA positive. Given allergy to
   sulfa, started empiric cipro.
   - Cdiff neg.
   #. ARF: Cr trending up to 3.3 today. Given anuria, suspect ATN
   - no improvement with IVF yest
   - Hold torsemide, spironolactone as BP still low
   - no hydro on US.
   - consult renal to be on board if need for RRT arises. Currently no
   indication for RRT
 but if requires, will likely need CVVH given
   hemodynamic instability and dependence on Dopamine.
   # LFT abnormalities: Elevated AST but not ALT. Also Alk phos, GGT but
   not bilirubin. Multiple possible causes: congestion secondary to right
   heart failure and TR, PSC due to UC (although previous w/u negative
   with hepatology), etoh induced.
   - will start with repeat RUQ US
   - unclear if function compromised (INR 1.4, Alb ?, no thrombocytopenia
   or megaloblastic anemia) or if findings are due to malnutrition. Could
   consider trial of vit K to eval for response and rule in/out liver
   cause.
   # ? pneumomediastinum: Moving air well bilaterally, but having short
   SVT with manipulation of CVL.  Placement appropriate, no desaturations
   since line placement. .
   Repeat CXR this AM without evidence of pneumomediastinum or
   pneumothorax.
   # Abdominal pain: Denies today although continues to have frequent
   bowel movements.
   - C diff ruled out.
   - ? resolving ischemic colitis secondary to hypotension.
   - does not seem to be having UC flair, and pain was in RLQ,
   notconsistent with PUD.
   # Hypoglycemia: Check thyroid studies. No history of chronic steroids
   so unlikely adrenal insufficiency. ? Insulin resistance.
   - LFTs with elevated AST, alk phos and GGT.
   - q2h fingersticks with sliding scale insulin/ dextrose
   #.Diarrhea: Possibly from infection or flare of ulcerative colitis.
   - Stool Cx, fecal leuks
   - C.Diff Cx
   #.Hyponatremia: Hypervolemic, likely due to CHF exacerbation and
   diarrhea.
   #.Hypothyroid: [**Month (only) 60**] be contributing to hypotension.
   - TSH elevated, T4 normal, likely sick euthyroid or subclinical
   hypothyroid.
   ICU Care
   Nutrition:
   Heart healthy low sodium diet, currently NPO for TEE. Allergy to
   shellfish
   Glycemic Control:  Taken off ISS, not requiring, no DM
   Lines:
   18 Gauge - [**2108-2-21**] 11:29 PM
   22 Gauge - [**2108-2-22**] 12:38 PM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2108-2-22**] 08:13 PM
   Arterial Line - [**2108-2-22**] 11:21 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   Communication:  Son is HCP: [**Name (NI) 831**] ([**0-0-**])
   Code status: Full confirmed
   Disposition: ICU

2108-02-24 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2108-2-23**] 02:55 PM
   -Liver US
   -Renal Consult
   -SBP drop to 70s, patient asymptomatic, dopamine increased to
   9mcg/kg/min
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Last dose of Antibiotics:
   Ciprofloxacin - [**2108-2-24**] 01:10 AM
   Infusions:
   Dopamine - 8 mcg/Kg/min
   Other ICU medications:
   1. Acetaminophen [**Telephone/Fax (1) 1335**] mg PO Q6H:PRN
   2. MetronidAZOLE 1 % Gel 1 Appl DAILY:PRN acne
   3. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob
   4. Miconazole 2% Cream 1 Appl TP [**Hospital1 **]:PRN
   5. Ciprofloxacin 400 mg IV Q24H
   6. Oxycodone-Acetaminophen 1 TAB PO Q6H:PRN pain
   7. Pantoprazole 40 mg IV Q12H
   8. DOPamine 2-10 mcg/kg/min IV DRIP
   9. Ferrous Sulfate 325 mg PO DAILY
   10. FoLIC Acid 1 mg PO DAILY
   11. Insulin sliding scale
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Patient feels well, improved from admission but not
   at baseline. She denies significant dyspnea while on oxygen. She denies
   abdominal pain or chest pain. She complains of mild fatigue and hand
   swelling.
   Flowsheet Data as of  [**2108-2-24**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 99 (76 - 105) bpm
   BP: 96/79(87) {75/50(60) - 109/100(102)} mmHg
   RR: 15 (10 - 27) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
    CVP: 26 (14 - 42)mmHg
   Total In:
                                                                  1,281 mL
                                                                    525 mL
   PO:
   TF:
   IVF:
                                                                  1,281 mL
                                                                    525 mL
   Blood products:
   Total out:
                                                                    246 mL
                                                                    180 mL
   Urine:
                                                                    246 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,035 mL
                                                                    345 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.34/36/85.[**Numeric Identifier 128**]/19/-5
   Physical Examination
   Patient appears improved from yesterday. Awake and comfortable in no
   distress.
   HEENT: Moist mucous membranes, clear oropharynx.
   CV: JVP at 16cm and pulsitile. Irregularly irregular rhythm and
   tachycardic to about 100. Systolic murmur at the LSB that does not
   radiate.
   Pulm: L sided expiratory wheeze. Good airmovement. Otherwise clear
   throughout.
   Abd: Soft, nontender, nondistended. Foley draining concentrated urine
   with gross blood.
   Ext: Warm and well perfused with good capillary refill. 2+ pitting
   edema in LE bilaterally and hands.
   Labs / Radiology
   182 K/uL
   10.7 g/dL
   119 mg/dL
   3.2 mg/dL
   19 mEq/L
   4.1 mEq/L
   58 mg/dL
   99 mEq/L
   131 mEq/L
   32.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2108-2-22**]  04:55 PM
                             [**2108-2-22**]  05:22 PM
                             [**2108-2-23**]  04:00 AM
                             [**2108-2-23**]  05:07 AM
                             [**2108-2-23**]  06:07 AM
                             [**2108-2-23**]  03:48 PM
                             [**2108-2-23**]  04:18 PM
                             [**2108-2-23**]  11:20 PM
                             [**2108-2-24**]  02:45 AM
                             [**2108-2-24**]  03:44 AM
   WBC
   6.3
   5.3
   Hct
   33.5
   32.5
   Plt
   194
   182
   Cr
   3.3
   3.4
   3.2
   TropT
   0.53
   TCO2
   19
   20
   21
   22
   20
   20
   Glucose
   106
   103
   119
   Other labs: PT / PTT / INR:15.7/38.1/1.4, CK / CKMB /
   Troponin-T:56/23/0.53, ALT / AST:[**8-/2067**], Alk Phos / T Bili:401/1.2,
   Differential-Neuts:80.8 %, Lymph:8.5 %, Mono:9.0 %, Eos:1.6 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.9 g/dL, LDH:231 IU/L, Ca++:9.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   62 year old woman with pmh significant for dilated right sided systolic
   heart failure secondary and diastolic left sided heart failure,
   presenting with hypoxia and hypotension in the setting of diarrhea.
   # Right heart failure: Pt with poor R heart function, markedly dilated
   RV and RA. Now with significant R->L shunt via large PFO, as well as
   TR. Difficult situation as PFO may be offloading some RV pressure but
   leading to significant hypoxia.
   - Appreciate cardiology recommednations.
   - Avoid significant systemic vasodilatation
   - Plan for R heart cath next week and consideration of pulmonary
   dilators
   - continue dopamine to augment inotropy/chronotropy.
   - Cardiac enzymes: CK peaked trending down, Trop still elevated. Likely
   demand ischemia.
   # Hypotension: Likely secondary to known L sided heart failure, in the
   setting of volume depletion, myocardial ishemia/infarction. Patient was
   initially volume depleted, now appear slightly volume overloaded by
   exam.
   - Wean dopamine as tolerated to maintain SBP>80 provided patient is
   asymptomatic
   - Fluid restrict with goal for euvolemia.
   #.Hypoxia:  Poorly responsive to O2 from shunt physiology, now
   improving with stabilization of hemodynamics
   - wean oxygen as tolerated while volume and perfusion repleted
   #. ARF: Cr peaked at 3.4, now 3.2 today. Increasing urine output, now
   oliguric. Likely ATN given poor perfusion on admission.
   -Appreciate renal recommendations
   -Follow Creatinine and urine output.
   - Hold torsemide, spironolactone until improvement in renal function
   - if improvement does not continue consider workup for glomerular
   etiology given proteinuria and hematuria.
   #. Gap acidosis: Likely due to ARF and organic anion accumulation.
   Continue to follow as renal function improves.
   #.Hyponatremia: Hypervolemic, likely due to CHF exacerbation and
   diarrhea.
   # LFT abnormalities: Elevated AST but not ALT. Also Alk phos, GGT but
   not bilirubin. Liver US shows no pathology. Multiple possible causes:
   congestion secondary to right heart failure and TR, etoh induced.
   - follow
   - unclear if function compromised (INR 1.4, Alb ?, no thrombocytopenia
   or megaloblastic anemia) or if findings are due to malnutrition. Could
   consider trial of vit K to eval for response and rule in/out liver
   cause.
   #.Diarrhea: Now improved. Possibly from infection or flare of
   ulcerative colitis.
   #.Hypothyroid: [**Month (only) 60**] be contributing to hypotension.
   - TSH elevated, T4 normal, likely sick euthyroid or subclinical
   hypothyroid.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2108-2-21**] 11:29 PM
   22 Gauge - [**2108-2-22**] 12:38 PM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2108-2-22**] 08:13 PM
   Arterial Line - [**2108-2-22**] 11:21 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2108-02-25 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   62 year old woman with pmh significant for dilated right sided systolic
   heart failure secondary and diastolic left sided heart failure,
   presenting with hypoxia and hypotension in the setting of diarrhea.
   24 Hour Events:
          Goal was to wean dopamine off, however, became Hypotensive
   when sleeping. Unable to wean at this time.
          A-Line completely dampened. MDs would like to keep it in at
   this time for blood gas draws
          UO picking up. Creatinine trending down
   Allergies:
   Lisinopril -Rash;
   Kefzol - Hives;
   Sulfa - Hives; Nausea/V
   Last dose of Antibiotics:
   Ciprofloxacin - [**2108-2-24**] 01:10 AM
   Infusions:
   Dopamine - 4 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-2-24**] 08:06 PM
   Other medications:
   1. Insulin sliding scale
   2. Tylenol prn
   3. Mesalamine 800mg TID
   4. Albuterol prn
   5. Flagyl topical gel prn
   6. Dopamine drip
   7. Miconazole cream prn
   8. Ferrous sulfate 325mg daily
   9. Percocet q6 prn
   10. Folic acid 1mg daily
   11. Pantoprazole 40mg IV q12
   12. Gabapentin 100mg hs
   Flowsheet Data as of  [**2108-2-25**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.4
C (95.8
   HR: 93 (73 - 101) bpm
   BP: 91/42(58) {82/18(39) - 118/71(79)} mmHg
   RR: 19 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
    CVP: 43 (11 - 43)mmHg
   Total In:
                                                                  2,186 mL
                                                                    177 mL
   PO:
                                                                    740 mL
   TF:
   IVF:
                                                                  1,446 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                    535 mL
                                                                    260 mL
   Urine:
                                                                    535 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,651 mL
                                                                    -83 mL
   Physical Examination
   Patient appears improved from yesterday. Awake and comfortable in no
   distress.
   HEENT: Moist mucous membranes, clear oropharynx.
   CV: JVP at 16cm and pulsitile. Irregularly irregular rhythm and
   tachycardic to about 100. Systolic murmur at the LSB that does not
   radiate.
   Pulm: L sided expiratory wheeze. Good airmovement. Otherwise clear
   throughout.
   Abd: Soft, nontender, nondistended. Foley draining concentrated urine
   with gross blood.
   Ext: Warm and well perfused with good capillary refill. 2+ pitting
   edema in LE bilaterally and hands.
   Labs / Radiology
   182 K/uL
   10.7 g/dL
   131 mg/dL
   2.8 mg/dL
   20 mEq/L
   3.8 mEq/L
   62 mg/dL
   98 mEq/L
   129 mEq/L
   32.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2108-2-22**]  05:22 PM
                             [**2108-2-23**]  04:00 AM
                             [**2108-2-23**]  05:07 AM
                             [**2108-2-23**]  06:07 AM
                             [**2108-2-23**]  03:48 PM
                             [**2108-2-23**]  04:18 PM
                             [**2108-2-23**]  11:20 PM
                             [**2108-2-24**]  02:45 AM
                             [**2108-2-24**]  03:44 AM
                             [**2108-2-25**]  03:08 AM
   WBC
   6.3
   5.3
   Hct
   33.5
   32.5
   Plt
   194
   182
   Cr
   3.3
   3.4
   3.2
   2.8
   TCO2
   19
   20
   21
   22
   20
   20
   Glucose
   106
   103
   119
   131
   Other labs: PT / PTT / INR:15.7/38.1/1.4, CK / CKMB /
   Troponin-T:56/23/0.53, ALT / AST:[**8-/2067**], Alk Phos / T Bili:401/1.2,
   Differential-Neuts:80.8 %, Lymph:8.5 %, Mono:9.0 %, Eos:1.6 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.9 g/dL, LDH:231 IU/L, Ca++:9.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   62 year old woman with pmh significant for dilated right sided systolic
   heart failure secondary and diastolic left sided heart failure,
   presenting with hypoxia and hypotension in the setting of diarrhea.
   Presumed pathophysiology: Diastolic left heart failure with secondary
   pulmonary hypertension and right heart failure.  In setting of volume
   depletion, left sided pressures dropped more than right, allowing for
   increased shunting via dilated PFO. Now improved with volume repletion.
   Plan: Right heart cath to evaluate for safety and response to
   vasodilators
 concern of pulmonary edema given left heart failure. If
   able to lower pulmonary pressures, ultimately may undergo PFO closure.
 HYPOXEMIA- Poorly responsive to O2 from shunt physiology, now
   improving with stabilization of hemodynamics
   - wean oxygen as tolerated while volume and perfusion repleted
 HYPOTENSION (NOT SHOCK) - Likely secondary to known L sided heart
   failure, in the setting of volume depletion, myocardial
   ishemia/infarction. Patient was initially volume depleted, now appear
   total body overloaded by exam, although intravascular volume may still
   be low.
   - Wean dopamine as tolerated to maintain SBP>80 provided patient is
   asymptomatic
   - Fluid restrict with goal for euvolemia.
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC: Pt with poor R heart
   function, markedly dilated RV and RA. Now with significant R->L shunt
   via large PFO, as well as TR. Difficult situation as PFO may be
   offloading some RV pressure but leading to significant hypoxia.
   - Appreciate cardiology recommednations.
   - Avoid significant systemic vasodilatation
   - Plan for R heart cath next week and trial of NO to access pt
   ability to tolerate pulmonary vasodilators, in hopes of eventually
   closing PFO.
   - wean dopamine as tolerated
   - Cardiac enzymes: CK peaked trending down, Trop still elevated. Likely
   demand ischemia.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) Cr peaked at 3.4, now
   2.8 today. Increasing urine output, now oliguric. Likely ATN given poor
   perfusion on admission.
   - Appreciate renal recommendations
   - Follow Creatinine and urine output.
   - Hold torsemide, spironolactone until improvement in renal function
   - Workup for glomerular etiology given proteinuria and hematuria is
   pending, though less likely as continues to improve.
   #.Hyponatremia: Stable/slightly worse since admission. Hypervolemic,
   likely due to CHF exacerbation and diarrhea.
   - Will continue to monitor as renal function improves and pt self
   diuresis.
   - stop salt restriction in diet.
   # LFT abnormalities: Elevated AST but not ALT. Also Alk phos, GGT but
   not bilirubin. Liver US shows no pathology. Multiple possible causes:
   congestion secondary to right heart failure and TR, etoh induced. PSC
   ruled out with neg AMA
   - unclear if function compromised (INR 1.4, Alb ?, no thrombocytopenia
   or megaloblastic anemia) or if findings are due to malnutrition. Could
   consider trial of vit K to eval for response and rule in/out liver
   cause.
   ICU Care
   Nutrition: Diabetic diet
   Glycemic Control:  ISS
   Lines:
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2108-2-22**] 08:13 PM
   Arterial Line - [**2108-2-22**] 11:21 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   Communication: Son [**Name (NI) 831**]
   [**Name (NI) 66**] status: Full
   Disposition: ICU

2108-02-26 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 62 year old woman with pmh significant for dilated
   right sided systolic heart failure and diastolic left sided heart
   failure, presenting with hypoxia and hypotension in the setting of
   diarrhea.
   24 Hour Events:
   Weaned off dopamine
   Weaned off oxygen
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Last dose of Antibiotics:
   Ciprofloxacin - [**2108-2-24**] 01:10 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-2-25**] 08:10 PM
   Other medications: 1. Insulin sliding scale
   2. Tylenol prn
   3. Mesalamine 800mg TID
   4. Albuterol prn
   5. Flagyl topical gel prn
   6. Dopamine drip
   7. Miconazole cream prn
   8. Ferrous sulfate 325mg daily
   9. Percocet q6 prn
   10. Folic acid 1mg daily
   11. Pantoprazole 40mg IV q12
   12. Gabapentin 100mg hs
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-2-26**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.1
C (95.2
   HR: 86 (69 - 98) bpm
   BP: 106/76(88) {87/57(67) - 136/118(310)} mmHg
   RR: 13 (10 - 22) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
    CVP: 44 (25 - 45)mmHg
   Total In:
                                                                  1,443 mL
                                                                     95 mL
   PO:
                                                                    820 mL
   TF:
   IVF:
                                                                    623 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                    845 mL
                                                                    280 mL
   Urine:
                                                                    845 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    598 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   Patient appears drowsy and inattentive, but in no distress, breathing
   comfortably.
   Neuro: Drowsy, oriented to name and place, not year or month.
   Reasonable historian.  CN II-XII intact. Symmetric strength and
   movement in upper and lower extremities. No extinction or RL confusion.
   HEENT: Moist mucous membranes, clear oropharynx.
   CV: JVP at 16cm and pulsitile. Irregularly irregular rhythm. Soft
   systolic murmur at the LSB that does not radiate.
   Pulm: Clear to auscultation bilaterally. Good airmovement.
   Abd: Soft, nontender, nondistended.
   Ext: Warm and well perfused with good capillary refill. 1+ pitting
   edema in LE bilaterally and hands, decreasing.
   Labs / Radiology
   121 K/uL
   9.1 g/dL
   95 mg/dL
   2.3 mg/dL
   21 mEq/L
   4.4 mEq/L
   61 mg/dL
   101 mEq/L
   131 mEq/L
   28.6 %
   3.7 K/uL
        [image002.jpg]
                             [**2108-2-23**]  04:00 AM
                             [**2108-2-23**]  05:07 AM
                             [**2108-2-23**]  06:07 AM
                             [**2108-2-23**]  03:48 PM
                             [**2108-2-23**]  04:18 PM
                             [**2108-2-23**]  11:20 PM
                             [**2108-2-24**]  02:45 AM
                             [**2108-2-24**]  03:44 AM
                             [**2108-2-25**]  03:08 AM
                             [**2108-2-26**]  04:06 AM
   WBC
   6.3
   5.3
   3.7
   Hct
   33.5
   32.5
   28.6
   Plt
   194
   182
   121
   Cr
   3.3
   3.4
   3.2
   2.8
   2.3
   TCO2
   20
   21
   22
   20
   20
   Glucose
   106
   103
   119
   131
   95
   Other labs: PT / PTT / INR:15.7/38.1/1.4, CK / CKMB /
   Troponin-T:56/23/0.53, ALT / AST:[**9-/2054**], Alk Phos / T Bili:392/0.7,
   Differential-Neuts:80.8 %, Lymph:8.5 %, Mono:9.0 %, Eos:1.6 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.9 g/dL, LDH:231 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   62 year old woman with pmh significant for dilated right sided systolic
   heart failure and diastolic left sided heart failure, presenting with
   hypoxia and hypotension in the setting of diarrhea. Presumed
   pathophysiology: Diastolic left heart failure with secondary pulmonary
   hypertension and right heart failure.  In setting of volume depletion,
   left sided pressures dropped more than right, allowing for increased
   shunting via dilated PFO. Now improved with volume repletion.
   Plan: Right heart cath to evaluate for safety and response to
   vasodilators
 concern of pulmonary edema given left heart failure. If
   able to lower pulmonary pressures, ultimately may undergo PFO closure.
 HYPOXEMIA- Poorly responsive to O2 from shunt physiology, now
   improving with stabilization of hemodynamics.
 HYPOTENSION (NOT SHOCK) - Likely secondary to known L sided heart
   failure, in the setting of volume depletion, myocardial
   ishemia/infarction. Patient was initially volume depleted, now appear
   total body overloaded by exam, although intravascular volume may still
   be low. Now autodiuresing with improvement of kidney function. Off
   dopamine and maintaining BP.
   - Fluid restrict with goal for euvolemia.
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC: Pt with poor R heart
   function, markedly dilated RV and RA. Now with significant R->L shunt
   via large PFO, as well as TR, appearing to be improving with
   improvement of volume status and presumed decrease shunting.
   - Appreciate cardiology recommednations.
   - Avoid significant systemic vasodilatation
   - Plan for R heart cath tomorrow and trial of NO to access pt
s ability
   to tolerate pulmonary vasodilators, in hopes of eventually closing PFO.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) Cr peaked at 3.4, now
   2.2 today. Increasing urine output. Likely ATN given poor perfusion on
   admission.
   - Appreciate renal recommendations
   - Follow Creatinine and urine output.
   - Hold torsemide, spironolactone until improvement in renal function
   - Workup for glomerular etiology given proteinuria and hematuria is
   pending, though less likely as continues to improve.
   #.Hyponatremia: Stable/slightly worse since admission. Hypervolemic,
   likely due to CHF exacerbation and diarrhea.
   - Will continue to monitor as renal function improves and pt self
   diuresis.
   - stop salt restriction in diet.
   # LFT abnormalities: Elevated AST but not ALT. Also Alk phos, GGT but
   not bilirubin. Liver US shows no pathology. Multiple possible causes:
   congestion secondary to right heart failure and TR, etoh induced. PSC
   ruled out with neg AMA
   - unclear if function compromised (INR 1.4, Alb ?, no thrombocytopenia
   or megaloblastic anemia) or if findings are due to malnutrition. Could
   consider trial of vit K to eval for response and rule in/out liver
   cause.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2108-2-21**] 11:29 PM
   22 Gauge - [**2108-2-22**] 12:38 PM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2108-2-22**] 08:13 PM
   Arterial Line - [**2108-2-22**] 11:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: